US07470679B2
2,2-Dioxo-3-piperidin-4-yl-2,3-dihydro-1H-2,1-benzothiazin-4-one hydrochloride
4-(2,2,4-Trioxo-1,2,3,4-tetrahydro-2,1-benzothiazin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (175 mg, 0.46 mmol) was dissolved in 4M hydrogen chloride in 1,4-dioxane (3.0 mL, 12.0 mmol). Reaction stirred at room temperature for 45 minutes. Reaction mixture was concentrated to dryness in vacuo. Title compound was obtained as pink solid in quantitative yield. MS m/e (M+H)+=281.1.

reactant | 4-(2,2,4-Trioxo-1,2,3,4-tetrahydro-2,1-benzothiazin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.46 mmol, 175 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1S(NC2=C(C1=O)C=CC=C2)(=O)=O | C18H24N2O5S
reactant | 1,4-dioxane | 12.0 mmol, 3.0 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | 4M | Cl | ClH
product | 2,2-Dioxo-3-piperidin-4-yl-2,3-dihydro-1H-2,1-benzothiazin-4-one hydrochloride | quantitative yield | Cl.O=S1(NC2=C(C(C1C1CCNCC1)=O)C=CC=C2)=O | InChI=1S/C13H16N2O3S.ClH/c16-12-10-3-1-2-4-11(10)15-19(17,18)13(12)9-5-7-14-8-6-9;/h1-4,9,13-15H,5-8H2;1H
